US08809525B2
Step 1: Preparation of 1-(pyrimidin-2-yl)ethanone
A solution of 2-cyano-pyrimidine (10.0 g, 95.2 mmol) in THF (100 mL) was cooled to −5° C. and treated with a 3 M solution of methyl magnesium bromide in THF (38.0 mL, 98.4 mmol). The reaction was stirred at 0° C. for two hours until completion was observed by TLC (chloroform/methanol, 9:1). The reaction mixture was poured in water; the pH was adjusted to 5-6 and the aqueous layer was extracted with ethyl acetate (3×150 mL). The combined organic layers were concentrated under reduced pressure and the crude compound was purified by column chromatography, eluting with chloroform to afford the target compound (6.5 g, 48%).

reactant | 2-cyano-pyrimidine | 95.2 mmol, 10.0 g | C(#N)C1=NC=CC=N1 | C5H3N3
reactant | methyl magnesium bromide | C[Mg]Br
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 98.4 mmol, 38.0 mL | C1CCOC1 | C4H8O
product | 1-(pyrimidin-2-yl)ethanone | 6.5 g, 48% | N1=C(N=CC=C1)C(C)=O | C6H6N2O
